US08138183B2
2-[2-(4-Aminophenyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ol
Dichlorobis(triphenylphosphine)palladium(II) (0.492 g, 0.70 mmol) was added to 2-[2-chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ol (3.81 g, 14.02 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (3.38 g, 15.42 mmol) and sodium carbonate (4.46 g, 42.06 mmol) in DME (80 mL) and water (20.00 mL) under nitrogen. The resulting solution was stirred at 80° C. for 6 hours. The reaction mixture was diluted with DCM (200 mL), and washed with water (400 mL) twice. The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 20 to 60% ethyl acetate in isohexane, to give a material which was further purified by ion exchange chromatography using an SCX column, eluting with 2M ammonia in methanol, to give the desired material as a pink gum (2.78 g).

reactant | 2-[2-chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ol | 14.02 mmol, 3.81 g | ClC1=NC(=CC(=N1)C(C)(C)O)N1[C@H](COCC1)C | C12H18ClN3O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 15.42 mmol, 3.38 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 42.06 mmol, 4.46 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 80 mL | COCCOC | C4H10O2
solvent | water | 20.00 mL | O | H2O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.70 mmol, 0.492 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[2-(4-Aminophenyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ol | 2.78 g | NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(C)(C)O)N1[C@H](COCC1)C | C18H24N4O2
